### ISSUE TITLE
`(kernel) application type mismatch` error using `Nat.xor`

### ISSUE THREAD

**Issue by SnirBroshi** [leanprover/lean4#11181]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

Lean shows an `(kernel) application type mismatch` error when using `simp` on theorems involving `Nat.xor`.

### Context

[Zulip thread](https://leanprover.zulipchat.com/#narrow/channel/113489-new-members/topic/.28kernel.29.20application.20type.20mismatch)

### Steps to Reproduce

```lean
theorem Nat.foo₁ (n : Nat) : n ^^^ 0 = n ^^^ 0 := by
  cases n
  · simp only [HXor.hXor, instXorOp, xor, bitwise, Bool.bne_true, Bool.not_false, ↓reduceIte]
  · sorry

theorem Nat.foo₂ : 0 ^^^ 0 = 0 ^^^ 0 := by
  simp only [HXor.hXor, instXorOp, xor, bitwise, Bool.bne_true, Bool.not_false, ↓reduceIte]
```

**Expected behavior:** Since `rfl` can prove both of these theorems I expected `simp` to succeed, but even if `simp` fails I expected it not to cause an error in the kernel.

**Actual behavior:**

<details><summary>`foo₁` shows this error:</summary>

```lean
(kernel) application type mismatch
  @Eq.ndrec Nat 0 (fun n => n ^^^ 0 = n ^^^ 0)
    (of_eq_true
      (Eq.trans
        (congr
          (congrArg Eq
            (Eq.trans (bitwise.eq_1 bne 0 0)
              (Eq.trans
                (ite_cond_eq_true (if (false != true) = true then 0 else 0)
                  (if 0 = 0 then if (true != false) = true then 0 else 0
                  else
                    have n' := 0 / 2;
                    have m' := 0 / 2;
                    let b₁ := 0 % 2 = 1;
                    let b₂ := 0 % 2 = 1;
                    have r := bitwise bne n' m';
                    if (decide b₁ != decide b₂) = true then r + r + 1 else r + r)
                  (eq_self 0))
                (ite_cond_eq_true 0 0
                  (Eq.trans (congrArg (fun x => x = true) (Eq.trans (Bool.bne_true false) Bool.not_false))
                    (eq_self true))))))
          (Eq.trans (bitwise.eq_1 bne 0 0)
            (Eq.trans
              (ite_cond_eq_true (if (false != true) = true then 0 else 0)
                (if 0 = 0 then if (true != false) = true then 0 else 0
                else
                  have n' := 0 / 2;
                  have m' := 0 / 2;
                  let b₁ := 0 % 2 = 1;
                  let b₂ := 0 % 2 = 1;
                  have r := bitwise bne n' m';
                  if (decide b₁ != decide b₂) = true then r + r + 1 else r + r)
                (eq_self 0))
              (ite_cond_eq_true 0 0
                (Eq.trans (congrArg (fun x => x = true) (Eq.trans (Bool.bne_true false) Bool.not_false))
                  (eq_self true))))))
        (eq_self 0)))
argument has type
  bitwise bne 0 0 = bitwise bne 0 0
but function has type
  (fun n => n ^^^ 0 = n ^^^ 0) 0 → ∀ {b : Nat}, 0 = b → (fun n => n ^^^ 0 = n ^^^ 0) b
```
</details>

<details><summary>`foo₂` shows this error:</summary>

```
(kernel) declaration type mismatch, 'Nat.foo₂' has type
  bitwise bne 0 0 = bitwise bne 0 0
but it is expected to have type
  0 ^^^ 0 = 0 ^^^ 0Lean 4
```
</details>

### Versions

```
Lean 4.25.0
Target: x86_64-unknown-linux-gnu
```

### Additional Information

[This message](https://leanprover.zulipchat.com/#narrow/channel/113489-new-members/topic/.28kernel.29.20application.20type.20mismatch/near/555002382) from Zulip might help.

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by TwoFX** [comment]
Reproducing the other example from the Zulip discussion:

```lean
-- works, basically just unfolding (which is part of what rfl should be capable of)
theorem a : Nat.xor 0 0 = Nat.bitwise bne 0 0 := by rw [Nat.xor]

/--
info: theorem a : Nat.xor 0 0 = Nat.bitwise bne 0 0 :=
Eq.mpr (id (congrArg (fun _a => _a 0 0 = Nat.bitwise bne 0 0) Nat.xor.eq_1)) (Eq.refl (Nat.bitwise bne 0 0))
-/
#guard_msgs in
#print a

/--
error: Type mismatch
  rfl
has type
  ?m.13 = ?m.13
but is expected to have type
  Nat.xor 0 0 = Nat.bitwise bne 0 0
-/
#guard_msgs in
example : Nat.xor 0 0 = Nat.bitwise bne 0 0 := rfl
```

**Comment by nomeata** [comment]
The problem seems to be that `simp` assumes that the kernel will consider `Nat.xor 0 0 = Nat.bitwise bne 0 0` to be a defeq, but the kernel can reduce `Nat.xor 0 0` (because it is closed), but not `Nat.bitwise` (because it is defined by well-founded recursion).

To solve this, we should define all operations where the kernel has special support for close terms to be by structural recursion (fuel or so). Or #7965 would fix it probably as well.

**Comment by nomeata** [comment]
Indeed, and as expected, #7965 would be one way to fix this.
